US06747023B1
1-(3-Furyl)-2-nitroethylene
To a solution of 3-furaldehyde (10.0 g) in ethanol (200 ml), nitromethane (6.37 g) was added at room temperature, followed by the dropwise addition of a 10N-aqueous sodium hydroxide solution (11.0 ml) at 0° C. The resulting mixture was stirred for 1 hour. The reaction mixture was poured into a 15% aqueous solution of hydrochloric acid (500 ml). The precipitate so formed was collected by filtration and dried, whereby the title compound (8.01 g) was obtained as a yellowish white solid.

reactant | 3-furaldehyde | 10.0 g | O1C=C(C=C1)C=O | C5H4O2
reactant | nitromethane | 6.37 g | [N+](=O)([O-])C | CH3NO2
reactant | sodium hydroxide | 11.0 ml | [OH-].[Na+]
reactant | hydrochloric acid | 500 ml | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-(3-Furyl)-2-nitroethylene | 8.01 g | O1C=C(C=C1)C=C[N+](=O)[O-] | C6H5NO3
